US07514566B2
N-((S)-2-amino-3-phenylpropyl)-5-(3-methyl-1H-indazol-5-yl)thiazol-2-amine
To a solution of 1.0 mL dioxane, 0.5 mL distilled water and sodium carbonate (35.0 mg, 0.33 mmol) in a 5 mL microwave tube, were added 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole (32.0 mg, 0.124 mmol) and (S)-N-(5-bromothiazol-2-yl)-N-(2-(1,3-dioxoisoindolin-2-yl)-3-phenylpropyl)acetamide (40.0 mg, 0.0826 mmol). The reaction mixture was degassed by bubbling nitrogen into the microwave tube for 30 seconds. Subsequently, tetrakis(triphenylphosphine)palladium(0) (10.0 mg, 0.0083 mmol) was added to the tube, and the mixture was heated at 150° C. in a Smith microwave synthesizer. After heating for 25 minutes, the reaction mixture was filtered through a pad of Celite and washed with MeOH. The filtrate was evaporated off, and the resulting residue was diluted with 1.5 mL MeOH, 1.5 mL water, and 1.5 mL hydrazine. The resulting mixture was transferred to a 5 mL microwave tube and heated at 150° C. After heating for 33 minutes, silica gel (10.0 g) was added to the reaction mixture, and the mixture was concentrated to dryness. The resulting solid was directly loaded on a silica gel column and chromatography separation was performed with DCM:MeOH (97:3) as the eluant to afford the desired compound N-((S)-2-amino-3-phenylpropyl)-5-(3-methyl-1H-indazol-5-yl)thiazol-2-amine as a colorless solid (8.0 mg, 26.6%). HRMS Theoretical (M+H) 364.15904, found 364.15915.

reactant | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 0.33 mmol, 35.0 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | 0.124 mmol, 32.0 mg | CC1=NNC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C14H19BN2O2
reactant | (S)-N-(5-bromothiazol-2-yl)-N-(2-(1,3-dioxoisoindolin-2-yl)-3-phenylpropyl)acetamide | 0.0826 mmol, 40.0 mg | BrC1=CN=C(S1)N(C(C)=O)C[C@H](CC1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C22H18BrN3O3S
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0083 mmol, 10.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | N-((S)-2-amino-3-phenylpropyl)-5-(3-methyl-1H-indazol-5-yl)thiazol-2-amine | 8.0 mg, 26.6% | N[C@H](CNC=1SC(=CN1)C=1C=C2C(=NNC2=CC1)C)CC1=CC=CC=C1 | C20H21N5S
